US07704995B2
3-Amino-6-(3-{[(biphenyl-2-ylmethyl)amino]carbonyl}phenyl)-N-[(3S)-piperidin-3-yl]pyrazine-2-carboxamide:
To a solution of 3-amino-6-bromopyrazine-2-carboxylic acid (4.0 g, 18 mmol) in DMF, HATU (10.4 g, 27.5 mmol), N,N-diisopropylethylamine (8.5 mL, 27.5 mmol) and (S)-3-amino-1-N-Boc-piperidine (4.0 g, 20 mmol, commercially available from Astatech and Arch Corporation) were added. The reaction was allowed to stir at room temperature for 1 h. The reaction mixture was diluted with water (100 mL), extracted with ethyl acetate (3×, 200 mL), washed with 5% LiCl (3×, 100 mL) and brine (3×, 100 mL), dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford a brown solid (MS (ESI-LCMS) for C15H22BrN5O3: 400 (MH+). This material was taken up in ethylene glycol dimethyl ether (150 mL), and triethylamine (4.6 mL, 45 mmol), Pd(dppf)2Cl2 (2.3 g, 2.75 mmol), 3-carboxyphenylboronic acid (3.6 g, 21.8 mmol) and water (15 mL) were added. The reaction was refluxed at 85° C. and monitored by LCMS. The reaction was complete after 3 h. The solvent was removed under reduced pressure to afford a brown solid. The crude product was purified by silica gel chromatography to afford a yellow solid (MS (ESI-LCMS) for C22H27N5O5: 442 (MH+). A portion of this intermediate (50 mg, 0.11 mmol) was dissolved in DMF (1 mL), and HATU (62.7 mg, 0.165 mmol), N,N-diisopropylethylamine (29 μL, 0.16 mmol) and 2-phenylbenzylamine (24.2 mg, 0.132 mmol) were added. The reaction was stirred at room temperature and monitored by LCMS. The reaction was complete after 1 h. The crude product was purified by preparative HPLC and lyophilized to afford a white solid (MS (ESI-LCMS) for C35H38N6O4: 607 (MH+). This material was dissolved in methanol (2 mL), and 4M HCl in dioxane (2 mL) was added. The reaction was stirred at room temperature and monitored by LCMS. The reaction was complete after 1 h. The solvents were removed under reduced pressure to afford a yellow gel product. The yellow gel product was dissolved in acetonitrile-water (2 mL), frozen and lyophilized to afford a yellow solid: 1H NMR (400 MHz, d6-DMSO): δ 9.25 (t, 1H), 9.05 (d, 1H), 8.95 (s, 1H), 8.9 (d, 1H), 8.85 (d, 1H), 8.6 (s, 1H), 8.35 (d, 1H), 7.9 (d, 1H), 7.6 (t, 1H), 7.5-7.3 (m, 8H), 7.25 (m, 1H), 4.5 (d, 2H), 4.35 (m, 1H), 3.25 (m, 2H), 3.05 (m, 1H), 2.75 (m, 1H), 1.95-1.7 (m, 4H). MS (EI) for C30H30N6O2: 507 (MH+).

reactant | 3-amino-6-bromopyrazine-2-carboxylic acid | 18 mmol, 4.0 g | NC=1C(=NC(=CN1)Br)C(=O)O | C5H4BrN3O2
reactant | HATU | 27.5 mmol, 10.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 27.5 mmol, 8.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-3-amino-1-N-Boc-piperidine | N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | triethylamine | 45 mmol, 4.6 mL | C(C)N(CC)CC | C6H15N
reactant | 3-carboxyphenylboronic acid | 21.8 mmol, 3.6 g | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | HATU | 0.165 mmol, 62.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.16 mmol, 29 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-phenylbenzylamine | 0.132 mmol, 24.2 mg | C1(=CC=CC=C1)C1=C(CN)C=CC=C1 | C13H13N
reactant | HCl | 4M | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | ethylene glycol dimethyl ether | 150 mL | COCCOC | C4H10O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | methanol | 2 mL | CO | CH4O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile water | 2 mL | C(C)#N.O
catalyst | Pd(dppf)2Cl2 | 2.75 mmol, 2.3 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 15 mL | O | H2O
product | 3-Amino-6-(3-{[(biphenyl-2-ylmethyl)amino]carbonyl}phenyl)-N-[(3S)-piperidin-3-yl]pyrazine-2-carboxamide | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C(=O)NCC1=C(C=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H]1CNCCC1 | C30H30N6O2
